US04100294
Step C: 6,7-Dichloro-2,3-dihydrobenzofuran-2-carboxylic acid
To a solution of 6,7-dichloro-2,3-dihydro-2-hydroxymethylbenzofuran (10.4 gm.) in acetone (200 ml.) cooled to 20° C. is added an oxidizing solution prepared from chromium trioxide (6.0 g.), concentrated sulfuric acid (5.3 ml.) and water (43 ml.) over a one-half hour period. The reaction mixture is stirred at 25° C. for 18 hours. The acetone layer is separated from the precipitated chromium salts, added to water (600 ml.) and extracted with ether (2 × 150 ml.). The ether extract is washed with water then extracted with aqueous sodium bicarbonate. Acidification of the basic solution gives 3.4 g. of 6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylic acid which is purified by reprecipitation from aqueous sodium hydroxide with aqueous hydrochloric acid.

reactant | 6,7-dichloro-2,3-dihydro-2-hydroxymethylbenzofuran | 10.4 gm | ClC1=C(C2=C(CC(O2)CO)C=C1)Cl | C9H8Cl2O2
reactant | sulfuric acid | 5.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 43 ml | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
catalyst | chromium trioxide | 6.0 g | [O-2].[O-2].[O-2].[Cr+6]
product | 6,7-Dichloro-2,3-dihydrobenzofuran-2-carboxylic acid | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1)Cl | C9H6Cl2O3
